US06486158B1
B. 4-Phenylphthalazine-1-thiol
1-Hydroxy-4-phenylphthalazine (0.31 g, 1.5 mmol) in toluene (30 ml) is allowed to react with Lawesson's reagent (0.6 g, 1.5 mmol) and the mixture is stirred in an oil bath. (80-90° C.) for 1.5 hour until all starting material is used up. Evaporation of the solvent gives a yellow solid which is stirred with isopropyl ether. Filtration gives the title compound as a yellow solid which is recrystallized from hexane/THF/toluene:7.5/2.5/2.0 (0.3 g)

reactant | 1-Hydroxy-4-phenylphthalazine | 1.5 mmol, 0.31 g | OC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H10N2O
reactant | Lawesson's reagent | 1.5 mmol, 0.6 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Phenylphthalazine-1-thiol | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)S | C14H10N2S
